US05726194
A solution of 6 g of 4-amino-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide and 0.5 g of titanium tetrachloride in 100 ml of methanol is treated with 1 ml of freshly distilled acetaldehyde. 4 g of sodium cyanoborohydride are then added thereto and the mixture is stirred for 30 hours. Cold half-concentrated hydrochloric acid is added thereto, the mixture is worked up in the customary manner and 4-ethylamino-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide is obtained.

reactant | 4-amino-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide | 6 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=2C(=NSN2)C=C1 | C12H10N4O2S2
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 4 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | titanium tetrachloride | 0.5 g | [Ti](Cl)(Cl)(Cl)Cl
product | 4-ethylamino-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide | C(C)NC1=CC=C(C=C1)S(=O)(=O)NC1=CC=2C(=NSN2)C=C1 | C14H14N4O2S2
